US06552021B2
4-Methoxypyrido[4,3-α]phenazine-11-carboxylic acid (2-dimethylamino-1(R)-methylethyl)-amide was prepared from 4-methoxypyrido[4,3-α]phenazine-11-carboxylic acid (II.4) and (R)-N1,N1-Dimethyl-propane-1,2-diamine

reactant | 4-methoxypyrido[4,3-α]phenazine-11-carboxylic acid | COC1=NC=CC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(=O)O | C17H11N3O3
reactant | (R)-N1,N1-Dimethyl-propane-1,2-diamine | CN(C[C@@H](C)N)C | C5H14N2
product | 4-Methoxypyrido[4,3-α]phenazine-11-carboxylic acid (2-dimethylamino-1(R)-methylethyl)-amide | CN(C[C@@H](C)NC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CN=C4OC)C | C22H23N5O2
